US04897105
A solution of 45.0 g of 4,6-dimethoxy-2-trimethylsilylaminopyrimidine and 35.0 g of phenyl chlorothionocarbonate in 300 ml of acetonitrile is refluxed for 10 hours. The reaction solution is concentrated under reduced pressure to remove acetonitrile. Toluene (300 ml) is added to the residue and filtered to remove insoluble substance. The filtrate is concentrated under reduced pressure and purified by silica gel column-chromatography (eluent: ethyl acetate:hexane =1:1). 4,6-Dimethoxy-2-isothiocyanatopyrimidine (17.0 g) is obtained from the first eluate. mp 85°~86° C.

reactant | 4,6-dimethoxy-2-trimethylsilylaminopyrimidine | 45.0 g | COC1=NC(=NC(=C1)OC)N[Si](C)(C)C | C9H17N3O2Si
reactant | phenyl chlorothionocarbonate | 35.0 g | C1=CC=C(C=C1)OC(=S)Cl | C7H5ClOS
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
product | 4,6-Dimethoxy-2-isothiocyanatopyrimidine | 17.0 g | COC1=NC(=NC(=C1)OC)N=C=S | C7H7N3O2S
